US04783549
10 g of magnesium turnings which are covered with approximately 75 cm3 of anhydrous tetrahydrofuran are placed in a round flask fitted with a condenser, a thermometer, a nitrogen inlet, a dropping funnel, and protected from atmospheric moisture by a calcium chloride tube. 25 cm' of a solution, prepared beforehand, of 65 g of ortho-fluorobromobenzene and 26 g of cyclopentadiene in 200 cm3 of anhydrous tetrahydrofuran are then added. The formation of the organomagnesium compound is initiated by heating the reaction mixture locally with a hairdryer, and the solvent is then kept at boiling point by dropwise addition of the remaining solution. The whole addition is completed in approximately 1 hour. The mixture is then filtered at ambient temperature and the solution is concentrated under reduced pressure. The solution is taken up again in ether and the ether phase is washed with ammonium chloride, separated by gravity and dried over magnesium sulphate; the solvent is then removed by evaporation under vacuum. The residue is then distilled and benzonorbornadiene, whose boiling point is 82°-83° C. at a pressure of 16 millibars, is obtained in a yield of 40%.

reactant | magnesium | 10 g | [Mg] | Mg
reactant | ortho-fluorobromobenzene | 65 g | FC1=C(C=CC=C1)Br | C6H4BrF
reactant | cyclopentadiene | 26 g | C1=CC=CC1 | C5H6
solvent | tetrahydrofuran | 200 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | approximately 75 cm3 | O1CCCC1 | C4H8O
product | benzonorbornadiene | yield of 40% | C=12C3=C(C(=CC1)C2)C=CC=C3 | C11H8
